US06525049B2
To a 500 mL 3-necked flask is added NaH (2.0 g of a 60% suspension in mineral oil) and 35 mL of DMSO. The resulting solution is heated at 80° C. for 1 h then cooled in an ice-water bath. To this is then added a solution of the (4-nitrobenzyl)(triphenyl)phosphonium bromide (23.92 g) in 200 mL warm DMSO. The mixture is stirred at room temperature for 1 h. Tetrahydro-4H-pyran-4-one (4.62 mL) is then added. The mixture is allowed to stir overnight at room temperature and then at 80° C. for 2 days. The mixture is poured over ice and extracted with Et2O. The combined organic extracts are dried and condensed. Chromatography (Biotage flash 40S, gradient from hexanes to 80% CH2Cl2/hexanes) yields 4.83 g (44%) of 4-(4-nitrobenzylidene)tetrahydro-2H-pyran as a solid.

reactant | NaH | [H-].[Na+]
reactant | (4-nitrobenzyl)(triphenyl)phosphonium bromide | 23.92 g | [Br-].[N+](=O)([O-])C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | Tetrahydro-4H-pyran-4-one | 4.62 mL | O1CCC(CC1)=O | C5H8O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 35 mL | CS(=O)C | C2H6OS
product | 4-(4-nitrobenzylidene)tetrahydro-2H-pyran | 4.83 g, 44% | [N+](=O)([O-])C1=CC=C(C=C2CCOCC2)C=C1 | C12H13NO3
